US08309584B2
2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(methylsulfinyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole (Ib-1)
To a solution of 2-tert-Butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(methylthio)-1H-pyrazol-3-yl)-1,3,4-oxadiazole (Ia-1) (150 mg, 0.30 mmol) in CH2Cl2 (5 mL) was added m-CPBA (77% Max, 74 mg, 0.33 mmol). The reaction mixture was stirred for 1 hr at room temperature. Saturated NaHCO3 was added to the reaction mixture, and the organic extract was dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was subjected to silica gel column chromatography (eluent: hexane/EtOAc=½) to obtain 100 mg (65%) of the title compound as a white solid.

reactant | 2-tert-Butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(methylthio)-1H-pyrazol-3-yl)-1,3,4-oxadiazole | 0.30 mmol, 150 mg | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1SC)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C22H19Cl3N4OS
reactant | m-CPBA | 0.33 mmol, 74 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(methylsulfinyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole | 100 mg, 65% | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1S(=O)C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C22H19Cl3N4O2S
